### PR TITLE
[Merged by Bors] - feat: add `norm_num` extensions for factorials

### PR DESCRIPTION
**Pull request by sebzim4500**
Add `norm_num` extensions to evaluate `Nat.factorial`, `Nat.ascFactorial` and `Nat.descFactorial`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/NormNum/NatFactorial.lean [hunk 1]
```diff
@@ -0,0 +1,120 @@
...
+    (py : Q(IsNat $y' $y)) : Expr × Expr :=
+  let eq_prf : Q($x = $z + $y) := (q(Eq.refl $x) : Expr)
+  let ⟨val, ascPrf⟩ := proveAscFactorial (z.natLit!) (y.natLit!)
+  let ascPrf : Q(ascFactorial $z $y = $val) := ascPrf
+  let prf : Q(IsNat (descFactorial $x' $y') $val) :=
+    q(isNat_descFactorial $z $px $py $eq_prf $val $ascPrf)
+  (val, prf)
+
+private partial def evalNatDescFactorialZero {x' y' : Q(ℕ)} (x y z : Q(ℕ)) (px : Q(IsNat $x' $x))
+    (py : Q(IsNat $y' $y)) : Expr × Expr :=
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/NatFactorial.lean:100]: I think it would make sense to return a `Q` type here:
```suggestion
    (py : Q(IsNat $y' $y)) : (n  : Q(ℕ)) × Q(IsNat (descFactorial $x' $y') $n) :=
```

File: Mathlib/Tactic/NormNum/NatFactorial.lean [hunk 2]
```diff
@@ -0,0 +1,120 @@
...
+-/
+
+namespace Mathlib.Meta.NormNum
+
+open Nat Qq Lean Elab.Tactic Qq Meta
+
+lemma ascFactorial_mul_ascFactorial (n l k : ℕ) :
+    n.ascFactorial l * (n + l).ascFactorial k = n.ascFactorial (l + k) := by
+  apply mul_left_cancel₀ (factorial_pos n).ne.symm
+  simp [factorial_mul_ascFactorial, ← mul_assoc, add_assoc]
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/NatFactorial.lean:25]: This lemma looks like it should live next to `factorial_mul_ascFactorial`; this is a general-purpose lemma, not just a norm-num trick.

Comment (robertylewis) [reply Mathlib/Tactic/NormNum/NatFactorial.lean:25]: Agreed!

**Comment by alexjbest** [comment]
@sebzim4500 do you want to push this over the finish line, or do you mind if someone else makes the changes to your PR for you? It would be great to have this in mathlib and the comments here are really just trivialities so I would be sad to see this stall forever!

File: Mathlib/Tactic/NormNum/NatFactorial.lean [hunk 3]
```diff
@@ -0,0 +1,120 @@
...
+partial def proveAscFactorial (n l : ℕ) : (result : Q(ℕ)) × Q(($n).ascFactorial $l = $result) :=
+  if l ≤ 50 then
+    let res : Q(ℕ) := mkRawNatLit (n.ascFactorial l)
+    ⟨res, (q(Eq.refl $res) : Expr)⟩
+  else
+    let m : ℕ := l / 2
+    let r : ℕ := l - m
+    let ⟨a, a_prf⟩ := proveAscFactorial n m
+    let ⟨b, b_prf⟩ := proveAscFactorial (n + m) r
+    let prf : Expr := q(asc_factorial_aux $n $m $r $a $b $a_prf $b_prf)
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/NatFactorial.lean:43]: `: Expr` is a bit of an antipattern when working with `Qq`; you should add a hypothesis along the lines of
```lean
have ret : Q(ℕ) := mkRawNatLit (a.natLit! * b.natLit!)
haveI : $ret =Q $a * $b := ⟨⟩
```

Comment (sebzim4500) [reply Mathlib/Tactic/NormNum/NatFactorial.lean:38]: I can see why this is an antipattern, but I can't anything else to typecheck. No matter what I get a `failed to evaluate argument` error.

Comment (eric-wieser) [reply Mathlib/Tactic/NormNum/NatFactorial.lean:38]: I'll see what I can come up with.

File: Mathlib/Tactic/NormNum/NatFactorial.lean [hunk 4]
```diff
@@ -0,0 +1,138 @@
...
+
+/-- Calculate `n.ascFactorial l` and return this value along with a proof of the result. -/
+partial def proveAscFactorial (n l : ℕ) (en el : Q(ℕ)) :
+    (result : ℕ) × (eresult : Q(ℕ)) × Q(($en).ascFactorial $el = $eresult) :=
+  if l ≤ 50 then
+    have res : ℕ := n.ascFactorial l
+    have eres : Q(ℕ) := mkRawNatLit (n.ascFactorial l)
+    have : ($en).ascFactorial $el =Q $eres := ⟨⟩
+    ⟨res, eres, q(Eq.refl $eres)⟩
+  else
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/NatFactorial.lean:36]: I'm pretty sure your test-case doesn't cover this branch; can you add some tests with `l >= 50`?

File: Mathlib/Tactic/NormNum/NatFactorial.lean (hunk 3 above)
Comment (sebzim4500) [reply Mathlib/Tactic/NormNum/NatFactorial.lean]: I think your changes break the build since the linter thinks the `have` statements are unnecessary, even though they aren't.

Comment (eric-wieser) [reply Mathlib/Tactic/NormNum/NatFactorial.lean]: The right thing to do is disable the linter, which is wrong.

**Comment by sebzim4500** [comment]
Is there anything I can do to get this merged? I've resolved all the threads and CI is green.

**Comment by alexjbest** [comment]
maintainer merge

**Comment by kmill** [comment]
Thanks! I'm not really sure that this divide and conquer strategy would improve performance for the core algorithm itself (it results in large numbers being multiplied together, instead a large number multiplied by a small number, without saving any multiplications, and the latter tends to be faster). However: I think I buy the idea that this could improve the performance for kernel checking (or at least make larger factorials more accessible to the kernel), and I like the fact that it still allows the kernel to reduce 50 steps of ascFactorial on its own. In any case, it looks like it is correctly written, let's merge.

bors r+

**Comment by sebzim4500** [comment]
> Thanks! I'm not really sure that this divide and conquer strategy would improve performance for the core algorithm itself (it results in large numbers being multiplied together, instead a large number multiplied by a small number, without saving any multiplications, and the latter tends to be faster).

I tested it locally and the divide an conquer strategy was significantly faster at calculating e.g. `500!`. It is very important to stop the divide and conquer approach once your blocks become sufficiently small though. It was not very sensitive to the actual threshold and a min block size of 20 to 100 all worked roughly as well as each other IIRC.
